### PR TITLE
[Merged by Bors] - feat(Algebra): auxiliary results for proofs about elliptic divisibility sequences

### PR DESCRIPTION
**Pull request by alreadydone**
`Int.strongRec`: if a proposition holds for integers less than a threshold, and it holds  for an integer above the threshold if it holds for all smaller integers, then it holds for all integers.

`negOnePow_abs` says (-1)^|n|=(-1)^n

`pos_iff_two_le_of_even` and `lt_iff_add_two_le_of_even_sub` are two lemmas about the interaction of parity and the order on the integers.

`Equiv.Perm.closure_isSwap` is strengthened to say the sub**monoid** generated by transpositions is the whole group, and moreover show transpositions of adjacent elements are enough.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/GroupTheory/Perm/Sign.lean [hunk 1]
```diff
@@ -112,14 +113,34 @@ theorem swap_induction_on [Finite α] {P : Perm α → Prop} (f : Perm α) :
...
-  refine' eq_top_iff.mpr fun x _ => _
-  obtain ⟨h1, h2⟩ := Subtype.mem (truncSwapFactors x).out
-  rw [← h1]
-  exact Subgroup.list_prod_mem _ fun y hy => Subgroup.subset_closure (h2 y hy)
+theorem mclosure_isSwap [Finite α] : Submonoid.closure { σ : Perm α | IsSwap σ } = ⊤ :=
+  eq_top_iff.mpr fun x _ ↦ by
+    cases nonempty_fintype α
+    obtain ⟨h1, h2⟩ := Subtype.mem (truncSwapFactors x).out
+    rw [← h1]
+    exact Submonoid.list_prod_mem _ fun y hy ↦ Submonoid.subset_closure (h2 y hy)
```
Comment (Ruben-VandeVelde) [inline Mathlib/GroupTheory/Perm/Sign.lean:121]: Is there a reason to reorder this proof? I'm not convinced the new code is necessarily better.

File: Mathlib/GroupTheory/Perm/Sign.lean [hunk 2]
```diff
@@ -112,14 +113,34 @@ theorem swap_induction_on [Finite α] {P : Perm α → Prop} (f : Perm α) :
...
+
+theorem closure_isSwap [Finite α] : Subgroup.closure { σ : Perm α | IsSwap σ } = ⊤ :=
+  Subgroup.closure_eq_top_of_mclosure_eq_top mclosure_isSwap
 #align equiv.perm.closure_is_swap Equiv.Perm.closure_isSwap
 
+/-- Every finite symmetric group is generated by transpositions of adjacent elements. -/
+theorem mclosure_isSwap_castSucc_succ (n : ℕ) :
```
Comment (Ruben-VandeVelde) [inline Mathlib/GroupTheory/Perm/Sign.lean:128]: I don't see `IsSwap` in the statement, so I don't think the name should have `isSwap` either

**Review by Ruben-VandeVelde — COMMENTED** [review]
Thanks!

File: Mathlib/GroupTheory/Perm/Sign.lean (hunk 2 above)
Comment (alreadydone) [reply Mathlib/GroupTheory/Perm/Sign.lean]: hanks! forgot to change the name, should say `swap` instead.

File: Mathlib/GroupTheory/Perm/Sign.lean (hunk 1 above)
Comment (alreadydone) [reply Mathlib/GroupTheory/Perm/Sign.lean]: I think I originally wanted to golf it but didn't end up finding any golf ... let me change it back.

**Comment by alreadydone** [comment]
Nice, the cache error finally goes away.

File: Mathlib/Data/Int/Defs.lean [hunk 3]
```diff
@@ -264,6 +264,15 @@ protected theorem le_induction_down {P : ℤ → Prop} {m : ℤ} (h0 : P m)
...
 #align int.le_induction_down Int.le_induction_down
 
+/-- A strong recursor for `Int` that specifies explicit values for integers below a threshold,
+and is analogous to `Nat.strongRec` for integers on or above the threshold. -/
+def strongRec {P : ℤ → Sort*} (m : ℤ) (h0 : ∀ n < m, P n)
+    (h1 : ∀ n, m ≤ n → (∀ k, k < n → P k) → P n) (n : ℤ) : P n :=
+  (em <| n < m).by_cases (h0 _) fun h ↦ h1 _ (Int.not_lt.mp h) (n.inductionOn' m h0
+    (fun _n _ hn l lt1 ↦ (em <| l < m).by_cases (h0 _) fun nlt ↦ h1 _ (Int.not_lt.mp nlt)
+      fun _k lt ↦ hn _ <| Int.lt_of_lt_of_le lt <| lt_add_one_iff.mp lt1)
+    fun _n _ hn _l lt ↦ hn _ <| Int.lt_trans lt <| pred_self_lt _)
```
Comment (Multramate) [inline Mathlib/Data/Int/Defs.lean:274]: To be consistent with the naming of the other recursors in this file, and minor golf:
```suggestion
@[elab_as_elim] protected def strongInduction {P : ℤ → Sort*} (m : ℤ) (lt : ∀ n < m, P n)
    (ge : ∀ n ≥ m, (∀ k : ℤ, k < n → P k) → P n) (n : ℤ) : P n :=
  (em <| n < m).by_cases (lt n) fun h ↦ ge n (not_lt.mp h) <| n.inductionOn' m lt
    (fun _ _ hn l lt1 ↦ (em <| l < m).by_cases (lt l) fun nlt ↦ ge l (not_lt.mp nlt)
      fun n lt2 ↦ hn n <| lt_of_lt_of_le lt2 <| lt_add_one_iff.mp lt1)
    fun n _ hn l lt1 ↦ hn l <| lt1.trans n.pred_self_lt
```
Note that I am very much against this naming, but we should change them in a future PR.

Personally I think this is too terse - maybe pattern-matching using `induction` would be easier to read.

File: Mathlib/Data/Int/Parity.lean [hunk 4]
```diff
@@ -300,4 +300,11 @@ example (m n : ℤ) (h : Even m) : ¬Even (n + 3) ↔ Even (m ^ 2 + m + n) := by
 
 example : ¬Even (25394535 : ℤ) := by decide
 
+lemma pos_iff_two_le_of_even {m : ℤ} (even : Even m) : 0 < m ↔ 2 ≤ m :=
+  add_one_le_iff.symm.trans <| (show 1 ≠ m by rintro rfl; exact not_even_one even).le_iff_lt.trans
+    (add_one_le_iff (a := 1).symm)
```
Comment (Multramate) [inline Mathlib/Data/Int/Parity.lean:305]: Seems to work:
```suggestion
  add_one_le_iff.symm.trans <| Ne.le_iff_lt <| by rintro rfl; exact not_even_one even
```

**Review by Multramate — APPROVED** [review]

File: Mathlib/Data/Int/Defs.lean (hunk 3 above)
Comment (alreadydone) [reply Mathlib/Data/Int/Defs.lean:274]: Note that Lean doesn't know ℤ is a linear order in this file, so we cannot use `not_lt`, `lt_of_lt_of_le` and `lt_trans` and have to resort to the corresponding `Int.` lemmas, which are protected.

File: Mathlib/Data/Int/Parity.lean (hunk 4 above)
Comment (alreadydone) [reply Mathlib/Data/Int/Parity.lean]: Yeah, exploiting some nice defeq :)

File: Mathlib/GroupTheory/Perm/Sign.lean [hunk 5]
```diff
@@ -112,14 +113,34 @@ theorem swap_induction_on [Finite α] {P : Perm α → Prop} (f : Perm α) :
...
+  exact Submonoid.list_prod_mem _ fun y hy ↦ Submonoid.subset_closure (h2 y hy)
+
+theorem closure_isSwap [Finite α] : Subgroup.closure { σ : Perm α | IsSwap σ } = ⊤ :=
+  Subgroup.closure_eq_top_of_mclosure_eq_top mclosure_isSwap
 #align equiv.perm.closure_is_swap Equiv.Perm.closure_isSwap
 
+/-- Every finite symmetric group is generated by transpositions of adjacent elements. -/
+theorem mclosure_swap_castSucc_succ (n : ℕ) :
+    Submonoid.closure (Set.range fun i : Fin n ↦ swap i.castSucc i.succ) = ⊤ :=
+  top_unique <| by
```
Comment (sgouezel) [inline Mathlib/GroupTheory/Perm/Sign.lean:130]: Unless a proof is very short, it's in general more readable to have a full tactic mode proof. So
```suggestion
    Submonoid.closure (Set.range fun i : Fin n ↦ swap i.castSucc i.succ) = ⊤ := by
  apply top_unique
```
and then unindent the rest.

File: Mathlib/GroupTheory/Perm/Sign.lean [hunk 6]
```diff
@@ -112,14 +113,34 @@ theorem swap_induction_on [Finite α] {P : Perm α → Prop} (f : Perm α) :
...
+    rw [← mclosure_isSwap, Submonoid.closure_le]
+    rintro _ ⟨i, j, ne, rfl⟩
+    wlog lt : i < j generalizing i j
+    · rw [swap_comm]; exact this _ _ ne.symm (ne.lt_or_lt.resolve_left lt)
+    clear ne; induction' j using Fin.induction with j ih
+    · cases lt
+    have mem : ?_ := ?_
```
Comment (sgouezel) [inline Mathlib/GroupTheory/Perm/Sign.lean:137]: That's really hard to read (although extremely efficient!). Can you come up with something more explicit?

File: Mathlib/Data/Int/Defs.lean [hunk 7]
```diff
@@ -264,6 +264,15 @@ protected theorem le_induction_down {P : ℤ → Prop} {m : ℤ} (h0 : P m)
...
 #align int.le_induction_down Int.le_induction_down
 
+/-- A strong recursor for `Int` that specifies explicit values for integers below a threshold,
+and is analogous to `Nat.strongRec` for integers on or above the threshold. -/
+@[elab_as_elim] protected def strongRec {P : ℤ → Sort*} (m : ℤ) (lt : ∀ n < m, P n)
+    (ge : ∀ n ≥ m, (∀ k : ℤ, k < n → P k) → P n) (n : ℤ) : P n :=
+  (em <| n < m).by_cases (lt n) fun h ↦ ge n (Int.not_lt.mp h) <| n.inductionOn' m lt
+    (fun _ _ hn l lt1 ↦ (em <| l < m).by_cases (lt l) fun nlt ↦ ge l (Int.not_lt.mp nlt)
+      fun n lt2 ↦ hn n <| Int.lt_of_lt_of_le lt2 <| lt_add_one_iff.mp lt1)
+    fun n _ hn l lt1 ↦ hn l <| Int.lt_trans lt1 n.pred_self_lt
```
Comment (sgouezel) [inline Mathlib/Data/Int/Defs.lean:274]: To me this looks like golfing at its worst, i.e., making sure that if the proof breaks then it is extremely hard to fix :-)
Would it make sense to have a more readable tactic proof? (I'm not sure because this could also be constructing data, and in this case having a term like you do is probably a good idea). An intermediate stance would be to add comments explaining what the different steps are doing.

File: Mathlib/GroupTheory/Perm/Sign.lean [hunk 8]
```diff
@@ -112,14 +113,34 @@ theorem swap_induction_on [Finite α] {P : Perm α → Prop} (f : Perm α) :
...
 
+/-- Every finite symmetric group is generated by transpositions of adjacent elements. -/
+theorem mclosure_swap_castSucc_succ (n : ℕ) :
+    Submonoid.closure (Set.range fun i : Fin n ↦ swap i.castSucc i.succ) = ⊤ :=
+  top_unique <| by
+    rw [← mclosure_isSwap, Submonoid.closure_le]
+    rintro _ ⟨i, j, ne, rfl⟩
+    wlog lt : i < j generalizing i j
+    · rw [swap_comm]; exact this _ _ ne.symm (ne.lt_or_lt.resolve_left lt)
+    clear ne; induction' j using Fin.induction with j ih
```
Comment (sgouezel) [inline Mathlib/GroupTheory/Perm/Sign.lean:135]:
```suggestion
    clear ne
    induction' j using Fin.induction with j ih
```
Normally one tactic per line, unless it's a one-liner. (You can also safely just remove the `clear ne`, and fix the proof below).

File: Mathlib/GroupTheory/Perm/Sign.lean (hunk 5 above)
Comment (alreadydone) [reply Mathlib/GroupTheory/Perm/Sign.lean:130]: done

File: Mathlib/GroupTheory/Perm/Sign.lean (hunk 8 above)
Comment (alreadydone) [reply Mathlib/GroupTheory/Perm/Sign.lean:135]: removed and fixed the proof

File: Mathlib/GroupTheory/Perm/Sign.lean (hunk 6 above)
Comment (alreadydone) [reply Mathlib/GroupTheory/Perm/Sign.lean:137]: The whole type is simply too long and doesn't even fit in one line, so I added a comment
`-- swap i j.succ ∈ Submonoid.closure ... (the LHS)`

File: Mathlib/Data/Int/Defs.lean (hunk 7 above)
Comment (alreadydone) [reply Mathlib/Data/Int/Defs.lean:274]: I think term-mode proofs like this is quite hard to break; it only breaks if you remove the lemmas used or change explicitness of arguments, and it's clear how to fix after those changes.

If I had done it in tactic mode I probably would keep it Prop valued rather than Sort*.
 
And I think this falls into the "mathematically trivial" sort of lemma/def that ought to be made as short as possible. Part of the reason this is long is that it's in a basic file that doesn't know Int is a LinearOrder, so some order lemmas with names suitable for dot notation can't be used.

File: Mathlib/GroupTheory/Perm/Sign.lean (hunk 6 above)
Comment (sgouezel) [reply Mathlib/GroupTheory/Perm/Sign.lean]: I still think this is not good style, because when you read the proof `mem` is not assigned (even its type), so there is no way the reader can understand what is going on even using the goal view. Even if the type takes two or three lines, you should just write it down to help your reader.

File: Mathlib/Algebra/Order/Ring/Int.lean [hunk 9]
```diff
@@ -67,6 +67,12 @@ lemma cast_mul_eq_zsmul_cast {α : Type*} [AddCommGroupWithOne α] :
     simp only [sub_mul, one_mul, cast_sub, ih, sub_zsmul, one_zsmul, ← sub_eq_add_neg, forall_const]
 #align int.cast_mul_eq_zsmul_cast Int.cast_mul_eq_zsmul_cast
 
+lemma pos_iff_two_le_of_even {m : ℤ} (even : Even m) : 0 < m ↔ 2 ≤ m :=
+  add_one_le_iff.symm.trans <| Ne.le_iff_lt <| by rintro rfl; exact not_even_one even
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Ring/Int.lean:71]: I am adding a very very similar result in #13683. Actually it's more general, so I think you will be able to drop your lemma entirely

Comment (alreadydone) [reply Mathlib/Algebra/Order/Ring/Int.lean:71]: You mean [this lemma](https://github.com/leanprover-community/mathlib4/blob/a493200aadc17ca309db1e5e14cecd7a8841d725/Mathlib/Data/Nat/Defs.lean#L1133-L1135)? It's about Nat rather than Int though. I can add the Int version of the lemma to this PR.

File: Mathlib/GroupTheory/Perm/Sign.lean (hunk 6 above)
Comment (alreadydone) [reply Mathlib/GroupTheory/Perm/Sign.lean]: Okay thanks. I think I copied the goal rather than the type of `mem` 🤦

File: Mathlib/Algebra/Order/Group/Int.lean [hunk 10]
```diff
@@ -121,6 +121,10 @@ theorem emod_lt (a : ℤ) {b : ℤ} (H : b ≠ 0) : a % b < |b| := by
 lemma le_iff_zero_lt_of_dvd {a b : ℤ} (ha : 0 < a) (hab : a ∣ b) : a ≤ b ↔ 0 < b :=
   ⟨lt_of_lt_of_le ha, (le_of_dvd · hab)⟩
 
+lemma le_add_iff_lt_of_dvd_sub {a b c : ℤ} (ha : 0 < a) (hab : a ∣ (c - b)) :
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Group/Int.lean:124]:
```suggestion
lemma le_add_iff_lt_of_dvd_sub {a b c : ℤ} (ha : 0 < a) (hab : a ∣ c - b) :
```
```suggestion
lemma le_add_iff_lt_of_dvd_sub {a b c : ℤ} (ha : 0 < a) (hab : a ∣ (c - b)) :
```

**Comment by YaelDillies** [comment]
I added the few lemmas I need for #13683 and golfed your `Int` analogs on the way. I was going to open another PR, but then I noticed yours was already solely prerequisite lemmas. Hope you don't mind.

**Comment by alreadydone** [comment]
Thanks, LGTM!

**Comment by YaelDillies** [comment]
maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
